US08871796B2
A solution of cyclobutylsulfamoyl chloride (0.65 M in CH2Cl2, 3.0 mL, 1.9 mmol, 1.5 equiv) was added to a solution of 2-(3-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}phenyl)propan-2-amine (0.50 g, 1.3 mmol, 1 equiv) and triethylamine (1.1 mL, 7.7 mmol, 6.0 equiv) in dichloromethane at −78° C. The reaction mixture was stirred for 10 minutes at −78° C., then cooling bath was removed. Stirred an additional 20 minutes, then partitioned between dichloromethane and aqueous citric acid solution (1 M). The organic layer was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated. The residue was purified by flash-column chromatography (hexanes, grading to 50% ethyl acetate-hexanes) to afford N-cyclobutyl-N′-[1-(3-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}phenyl)-1-methylethyl]sulfamide (270 mg, 40%) as a white solid. Calcd (M+1)+: 523.2. Found: 523.1. 1H NMR (600 MHz, cdcl3) δ 7.60-7.49 (m, 4H), 7.42 (t, J=7.7, 1H), 7.29 (d, J=7.6, 1H), 7.23 (d, J=8.7, 2H), 5.86 (s, 1H), 4.75 (s, 1H), 4.33 (d, J=8.5, 1H), 4.08 (q, J=7.2, 3H), 2.24 (dd, J=16.8, 7.8, 2H), 1.89-1.80 (m, 3H), 1.72 (s, 6H), 1.70-1.54 (m, 3H), 1.41 (t, J=7.2, 3H).

reactant | cyclobutylsulfamoyl chloride | 1.9 mmol, 0.65 M, 3.0 mL, 1.5 equiv | C1(CCC1)NS(=O)(=O)Cl | C4H8ClNO2S
reactant | 2-(3-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}phenyl)propan-2-amine | 1.3 mmol, 0.50 g, 1 equiv | C(C)N1N=C(C=C1C=1C=C(C=CC1)C(C)(C)N)OC1=CC=C(C=C1)C(F)(F)F | C21H22F3N3O
reactant | triethylamine | 7.7 mmol, 1.1 mL, 6.0 equiv | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclobutyl-N′-[1-(3-{1-ethyl-3-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-5-yl}phenyl)-1-methylethyl]sulfamide | 270 mg, 40% | C1(CCC1)NS(=O)(=O)NC(C)(C)C1=CC(=CC=C1)C1=CC(=NN1CC)OC1=CC=C(C=C1)C(F)(F)F | C25H29F3N4O3S
